US04719200
N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline (1.00 g, 2.40 m mole) was dissolved in L-arginine (0.41 8 g, 2.40 m mole) - water (50 ml) solution and the thus obtained solution was freeze-dried to obtain N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline L -arginine salt (1.40 g).

reactant | N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline | 1.00 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C21H27N3O6
reactant | L-arginine | 8 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | 50 ml | O | H2O
product | N-benzyloxycarbonyl-L-alanyl-L-prolyl-L-proline L -arginine salt | 1.40 g | N[C@@H](CCCNC(N)=N)C(=O)O.C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | InChI=1S/C21H27N3O6.C6H14N4O2/c1-14(22-21(29)30-13-15-7-3-2-4-8-15)18(25)23-11-5-9-16(23)19(26)24-12-6-10-17(24)20(27)28;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,7-8,14,16-17H,5-6,9-13H2,1H3,(H,22,29)(H,27,28);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t14-,16-,17-;4-/m00/s1
